US06992103B2
3-(2-Oxooxazolidin-3-yl)benzoic acid methyl ester (D18)
Methyl 3-bromobenzoate (500 mg, 2.33 mmol), caesium carbonate (1.06 g, 3.26 mmol), oxazolidin-2-one (243 mg, 2.80 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (107 mg, 0.186 mmol) and tris(dibenzylideneacetone)dipalladium (0) (43 mg, 0.047 mmol) were refluxed under argon in dioxane (6 ml) for 18 h. After cooling, the mixture was filtered and evaporated in vacuo. Column chromatography on silica gel eluting with a gradient of 10–50% ethyl acetate in hexane gave the title compound (113 mg).

reactant | Methyl 3-bromobenzoate | 2.33 mmol, 500 mg | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | caesium carbonate | 3.26 mmol, 1.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | oxazolidin-2-one | 2.80 mmol, 243 mg | O1C(NCC1)=O | C3H5NO2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.186 mmol, 107 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.047 mmol, 43 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2-Oxooxazolidin-3-yl)benzoic acid methyl ester | 113 mg | COC(C1=CC(=CC=C1)N1C(OCC1)=O)=O | C11H11NO4
